US04426522
Into a three-necked flask equipped with a mechanical stirrer and a condenser were placed 300 ml of water, and stirring was commenced. 3 g of 1-(2',4'-dichlorobenzyl)-6-aza uracil were added and after a fine suspension had been obtained, of 60 ml of glacial acetic acid was added to this suspension. 3.3 g of fine zinc powder was then added in small portions. After all materials had been added the mixture was vigorously stirred and refluxed for 24 hours. The completion of the reduction was verified by thin layer chromatography. The mixture was cooled and the precipitate thus formed was filtered off and redissolved in hot methanol. The undissolved material was filtered off and the methanol solution was cooled to yield 2-(2',4'-dichlorobenzyl)hexahydro-1,2,4-triazine-3,5 dione; m.p. 230°; yield 1.4 g (60%).

reactant | water | 300 ml | O | H2O
reactant | 1-(2',4'-dichlorobenzyl)-6-aza uracil | 3 g | ClC1=C(CN2C(=O)NC(=O)C=N2)C=CC(=C1)Cl | C10H7Cl2N3O2
catalyst | zinc | 3.3 g | [Zn] | Zn
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(2',4'-dichlorobenzyl)hexahydro-1,2,4-triazine-3,5 dione | yield 50% | ClC1=C(CN2NCC(NC2=O)=O)C=CC(=C1)Cl | C10H9Cl2N3O2
